US09108916B2
N-(2-Hydroxyethyl)-2-nitrobenzenesulfonamide (54)
Ethanolamine (10 mL, 165 mmol) was dissolved in ethyl acetate (60 mL). Then a solution of Na2CO3 (22.7 g, 214.2 mmol) in water (100 mL) was added. Then, a solution of 2-nitrobenzenesulfonyl chloride (35.0 g, 157.9 mmol) in ethyl acetate (100 mL) was added dropwise under stirring. The resulting solution was stirred at room temperature for 2 h (TLC monitoring, eluent: CH2Cl2). The organic layer was separated, washed with water and a solution of citric acid, dried over Na2SO4, and evaporated. Yield of 54: 29.5 g (73%) as white crystals.

reactant | Ethanolamine | 165 mmol, 10 mL | C(O)CN | C2H7NO
reactant | Na2CO3 | 214.2 mmol, 22.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-nitrobenzenesulfonyl chloride | 157.9 mmol, 35.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-Hydroxyethyl)-2-nitrobenzenesulfonamide | OCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O5S
